* source LIMITADOR_CORRIENTE
R_R6         N008771 N01358  1k  
R_R7         N01358 0  {PARAM}  
V_V4         N008771 0 10
V_V5         N01322 0 30
V_V6         0 N01328 10
X_Q3         VFIJA N037301 N04269 awb2n2222 PARAMS:                            
+                 
R_R16         N04269 VCORR  1k  
X_U3         N04203 N04269 N04257 N04263 N037301 uA741
V_V9         N04185 0 10
V_V11         0 N04263 10
X_R20         0 0 N04203 POT PARAMS: SET=1 VALUE=1K
R_R17         N04185 N04203  1k  
V_V10         N04257 0 10
R_rshunt         VCORR 0  10  
X_U4         VCORR N01358 N01322 N01328 VCOMP 0 LM111
X_R25         0 0 N07074 POT PARAMS: SET={PARAM} VALUE=1K
R_R23         N07154 0  1MEG  
R_R24         N07154 N07140  1k  
V_V14         N07128 0 10
V_V15         0 N07134 10
V_V13         N07054 0 10
R_R22         N07054 N07074  1k  
X_U5         N07074 N07154 N07128 N07134 N07140 uA741
Q_Q4         N07656 N07642 N07636 Q2N3906
R_R27         N07642 0  1k  
R_R28         N07626 N07642  1k  
R_R29         N07626 N07636  1k  
V_V16         N07626 0 0Vdc
R_R26         N07656 0  1k  
V_V18         N084101 0  
+PWL 0.8m 2.1 2m 2.5 
R_R8         VCOMP N08304  1  
X_S3    N08304 0 VFIJA 0 SCHEMATIC1_S3 
C_C1         VCOMP VCOMP  100n   
R_R30         N084101 N08422  1  
X_S2    VCOMP 0 N08422 VCOMP SCHEMATIC1_S2 
V_V12         N09317 0 10
R_R32         N09317 VFIJA  1  
.PARAM  param=0

.subckt SCHEMATIC1_S3 1 2 3 4  
S_S3         3 4 1 2 Sbreak
RS_S3         1 2 1G
.ends SCHEMATIC1_S3

.subckt SCHEMATIC1_S2 1 2 3 4  
S_S2         3 4 1 2 Sbreak
RS_S2         1 2 1G
.ends SCHEMATIC1_S2
